US08211900B2
Stage 1—Synthesis of (S)-Cyclopentyl 4-methyl-2-(4-nitrobenzylamino)pentanoate
To a solution of cyclopentyl L-leucinate (2.00 g, 10.0 mmol) and 4-nitrobenzaldehyde (3.04 g, 20.0 mmol) in DCM (40 ml) was added glacial acetic acid (2 drops). The solution was allowed to stir at RT for 1 h whereupon sodium triacetoxyborohydride (6.40 g, 30.2 mmol) was added in a single a portion. After stirring for 3 h, the solution was poured on to aq. 1M HCl, allowed to stir for 30 min, neutralised with aq. 1M NaOH and extracted with DCM. The combined organics were washed with water and brine, dried over MgSO4, and evaporated under reduced pressure. The crude material was purified by chromatography (5% EtOAc/isohexane) to furnish the title compound as an oil (1.51 g, 45%). m/z 335.1 [M−H]+.

reactant | cyclopentyl L-leucinate | 10.0 mmol, 2.00 g | N[C@@H](CC(C)C)C(=O)OC1CCCC1 | C11H21NO2
reactant | 4-nitrobenzaldehyde | 20.0 mmol, 3.04 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | sodium triacetoxyborohydride | 30.2 mmol, 6.40 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | (S)-Cyclopentyl 4-methyl-2-(4-nitrobenzylamino)pentanoate | 1.51 g, 45% | CC(C[C@@H](C(=O)OC1CCCC1)NCC1=CC=C(C=C1)[N+](=O)[O-])C | C18H26N2O4
